US06353006B1
(1R)-1-Cyclohexyl-1-ethylamine was reacted with 1,2-epoxy-2-methylpropane according to Method B5b to give N-((1R)-1-cyclohexyl-1-ethyl)-N-(2,2-dimethyl-2-hydroxyethyl)amine. N-((1R)-1-Cyclohexyl-1-ethyl)-N-(2,2-dimethyl-2-hydroxyethyl)amine was reacted with SOCl2 followed by 2-methyl-4-nitrophenyl isothiocyanate according to Method C2f to afford 2-(2-methyl-4-nitrophenylimino)-3-((1R)-1-cyclohexyl-1-ethyl)-5,5-dimethyl-1,3-thiazolidine HCl salt.

reactant | N-((1R)-1-Cyclohexyl-1-ethyl)-N-(2,2-dimethyl-2-hydroxyethyl)amine | C1(CCCCC1)[C@@H](C)NCC(O)(C)C | C12H25NO
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | 2-methyl-4-nitrophenyl isothiocyanate | CC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C8H6N2O2S
product | 2-(2-methyl-4-nitrophenylimino)-3-((1R)-1-cyclohexyl-1-ethyl)-5,5-dimethyl-1,3-thiazolidine HCl salt | Cl.CC1=C(C=CC(=C1)[N+](=O)[O-])N=C1SC(CN1[C@H](C)C1CCCCC1)(C)C | InChI=1S/C20H29N3O2S.ClH/c1-14-12-17(23(24)25)10-11-18(14)21-19-22(13-20(3,4)26-19)15(2)16-8-6-5-7-9-16;/h10-12,15-16H,5-9,13H2,1-4H3;1H/t15-;/m1./s1
